US05091432
0.500 g (4.62 mmol) of 2-(aminomethyl)pyridine and 0.250 g (1.06 mmol) of 3-(1,6-dihydro-6-oxo-9H-purin-9-yl)propionic acid, ethyl ester (AIT-0027) were heated together with stirring in a 10 ml round bottom flask at 110° C. for 90 minutes. The solution solidified and was cooled to room temperature. 10 ml of acetonitrile was added and the solid was broken up with a spatula until a fine white precipitate was formed. The solid was collected by Buchner vacuum filtration and the solid was washed with acetonitrile and ether to yield 267 mg of 3-(1,6-dihydro-6-oxo-9H-purin-9-yl)-N-[(2-pyridinyl)methyl]propanamide (AIT-0063) as a white solid. Yield: 84%.

reactant | 2-(aminomethyl)pyridine | 4.62 mmol, 0.500 g | NCC1=NC=CC=C1 | C6H8N2
reactant | 3-(1,6-dihydro-6-oxo-9H-purin-9-yl)propionic acid, ethyl ester | 1.06 mmol, 0.250 g | O=C1C=2N=CN(C2N=CN1)CCC(=O)OCC | C10H12N4O3
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 3-(1,6-dihydro-6-oxo-9H-purin-9-yl)-N-[(2-pyridinyl)methyl]propanamide | 267 mg, Yield: 84% | O=C1C=2N=CN(C2N=CN1)CCC(=O)NCC1=NC=CC=C1 | C14H14N6O2
